US08496323B2
Synthesis of 4-(undec-10-enyloxy)azobenzene
4-(phenyldiazenyl)phenol (2.100 g; 10.60 mmol) and potassium tert-butoxide (1.247 g; 11.13 mmol) were placed in a dry, two-neck, round-bottom flask equipped with a magnetic stirring bar, a reflux condenser, and a rubber septum. The flask was evacuated and purged with dry argon, then 25 mL of anhydrous N,N-dimethylformamide was added while stirring. As soon as the solids disappeared, 11-bromo-1-undecene (2.44 mL; 2.595 g; 11.13 mmol) was added and the solution was quickly heated, and allowed to reflux for 10 min. Formation of white precipitate was observed, and the color of the solution changed from deep red to bright orange. After 10 min, the heating was discontinued, and the flask was allowed to cool down. The reaction mixture was poured into a separatory funnel containing 100 mL of water, and extracted with four 50 mL portions of hexane. Hexane fractions were combined and dried over magnesium sulfate. Hexane was removed on a rotary evaporator, and the residue was purified by column chromatography (ethyl acetate:hexane 1:20) to give 2.95 g (79.5%) of analytically pure product.

reactant | 4-(phenyldiazenyl)phenol | 10.60 mmol, 2.100 g | C1(=CC=CC=C1)N=NC1=CC=C(C=C1)O | C12H10N2O
reactant | potassium tert-butoxide | 11.13 mmol, 1.247 g | CC(C)([O-])C.[K+]
reactant | 11-bromo-1-undecene | 11.13 mmol, 2.44 mL, 2.595 g | BrCCCCCCCCCC=C | C11H21Br
solvent | water | 100 mL | O | H2O
product | 4-(undec-10-enyloxy)azobenzene | C(CCCCCCCCC=C)OC1=CC=C(C=C1)N=NC1=CC=CC=C1 | C23H30N2O
